US04288350
2-(Beta-cyanoethyl)-2-butyl-3- octenal was prepared from 2-butyl-2-octenal and acrylonitrile analogously to the preparation of 2-(beta-cyanoethyl)2-methylpentanal as described in Example 1. Yield 38% of the product boiling at 143°-148° C. at 0.6 mm.; nD20 1.4754. Saponification and reduction as described in Example 1 gave γ-butyl-γ-1-hexenyl-δ-valerolactone boiling at 125°-127° C. at 0.4 mm. Yield 54%; nD20 1.4754. Odor description: fatty, greenishlike butyl alcohol.

reactant | 2-butyl-2-octenal | C(CCC)C(C=O)=CCCCCC | C12H22O
reactant | acrylonitrile | C(C=C)#N | C3H3N
product | 2-(Beta-cyanoethyl)-2-butyl-3- octenal | C(#N)CCC(C=O)(C=CCCCC)CCCC | C15H25NO
